US04451470
17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-morphinan-3,6-diol (α-isomer)
17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one (1.1 g) was dissolved in tetrahydrofuran (50 ml) and dried over molecular sieves. This dried solution was then added to a solution of lithium tri(tertiarybutoxy)aluminum hydride (7.5 g in 50 ml THF) and stirred for three hours. Excess reducing agent was decomposed by cautious addition of water followed by sodium carbonate to pH 8.2. The aqueous tetrahydrofuran was filtered off, and the filter cake washed with tetrahydrofuran to leach out the adhering product. The organic solvent was removed by evaporation, the residue dissolved in chloroform, and the chloroform solution washed with water and filtered through a fluted filter. Evaporation of the chloroform yielded 800 mg of a solid which was recrystallized from ethanol to give the title product, m.p. 236°-239°.

reactant | 17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-3-hydroxymorphinan-6-one | 1.1 g | C1(CCC1)CN1[C@H]2[C@@]3(CCC(C4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)F | C21H24FNO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 17-(Cyclobutylmethyl)-4,5-epoxy-14-fluoro-morphinan-3,6-diol | 800 mg | C1(CCC1)CN1[C@H]2[C@@]3(CCC(C4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)O)F | C21H26FNO3
